US08431607B2
3-(4-(4-chlorophenoxy)phenyl)-1-(2-methoxyethyl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one
A solution of 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)ethyl methanesulfonate (10.0 mg, 0.0180 mmol) in MeOH (0.3 mL) is heated at 60° C. overnight. After removal of the solvent the residue is purified by preparatory LC/MS to provide the title compound; 1H NMR (CDCl3, 400 MHz) δ 7.56-7.44 (m, 4H), 7.30 (d, 2H), 7.23 (d, 2H), 6.86 (m, 4H), 5.22 (dd, 1H), 4.07 (t, 1H), 3.57 (m, 3H), 3.49 (m, 1H), 3.36 (dd, 1H), 3.34 (s, 3H); HPLC-MS calculated for C25H22ClF3N2O3 (M+H+) 491.1, found 491.1.

reactant | 2-(3-(4-(4-chlorophenoxy)phenyl)-2-oxo-4-(3-(trifluoromethyl)phenyl)-imidazolidin-1-yl)ethyl methanesulfonate | 0.0180 mmol, 10.0 mg | CS(=O)(=O)OCCN1C(N(C(C1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)=O | C25H22ClF3N2O5S
reactant | MeOH | 0.3 mL | CO | CH4O
product | 3-(4-(4-chlorophenoxy)phenyl)-1-(2-methoxyethyl)-4-(3-(trifluoromethyl)phenyl)-imidazolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(CC2C2=CC(=CC=C2)C(F)(F)F)CCOC)=O)C=C1 | C25H22ClF3N2O3
